US04650804
A mixture of 2-hydroxymethylpyridine (19.3 ml), t-butyldimethylsilyl chloride (36.2 g) and imidazole (27.2 g) in dimethylformamide (190 ml) was stirred for two hours at room temperature. Water was added to the reaction mixture and extracted with n-hexane. The organic layer was washed with water, dried over magnesium sulfate and then evaporated. The residue was distilled to give 2-t-butyldimethylsiloxymethylpyridine (42.30 g).

reactant | 2-hydroxymethylpyridine | 19.3 ml | OCC1=NC=CC=C1 | C6H7NO
reactant | t-butyldimethylsilyl chloride | 36.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 27.2 g | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
product | 2-t-butyldimethylsiloxymethylpyridine | 42.30 g | O([Si](C)(C)C(C)(C)C)CC1=NC=CC=C1 | C12H21NOSi
